US06875868B2
a) 2-[[(2,3-Difluorophenyl)methyl]sulfonyl]-4-[[-2-hydroxy-1-hydroxymethylethyl]amino]-7(8H)-pteridinone
2-[[(2,3-Difluorophenyl)methyl]thio]-4-[[-2-hydroxy-1-hydroxymethylethyl]amino]-7(8H)-pteridinone (2.25 g) was stirred in acetonitrile (750 ml) and water (750 ml) with oxone (22.5 g) for 18 hrs. Acetonitrile was removed in vacuo to leave an aqueous suspension. The mixture was extracted into ethyl acetate. The combined extracts were washed with saturated sodium chloride solution, dried (MgSO4) and the solvent removed in vacuo to afford the subtitled compound (1.92 g).

reactant | 2-[[(2,3-Difluorophenyl)methyl]thio]-4-[[-2-hydroxy-1-hydroxymethylethyl]amino]-7(8H)-pteridinone | 2.25 g | FC1=C(C=CC=C1F)CSC1=NC=2NC(C=NC2C(=N1)NC(CO)CO)=O | C16H15F2N5O3S
reactant | water | 750 ml | O | H2O
reactant | oxone | 22.5 g | OOS(=O)[O-].[K+]
solvent | acetonitrile | 750 ml | C(C)#N | C2H3N
product | 2-[[(2,3-Difluorophenyl)methyl]sulfonyl]-4-[[-2-hydroxy-1-hydroxymethylethyl]amino]-7(8H)-pteridinone | 1.92 g | FC1=C(C=CC=C1F)CS(=O)(=O)C1=NC=2NC(C=NC2C(=N1)NC(CO)CO)=O | C16H15F2N5O5S
